US09193692B2
A. 5-Bromo-6-methylpicolinamide
A solution of 5-bromo-6-methylpicolinonitrile (1.8 g, 9.14 mmol) in a mixture of TFA and sulfuric acid (30 mL, 4:1, VAT) was stirred at 40° C. for 16 h. The reaction mixture was poured into ice water. The resulting solid was filtered off and washed with water and dried to give the desired product as a white solid (1.0 g, 4.65 mmol, 54% yield). MS (ESI) m/z 217.1 [M+2]+.

reactant | 5-bromo-6-methylpicolinonitrile | 9.14 mmol, 1.8 g | BrC=1C=CC(=NC1C)C#N | C7H5BrN2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-6-methylpicolinamide | 4.65 mmol, 1.0 g, 54% yield | BrC=1C=CC(=NC1C)C(=O)N | C7H7BrN2O
